US09353096B2
In a 100 mL round-bottomed flask, 2-isopropylpyrimidine-4-carbaldehyde (865 mg, 5.76 mmol) was combined with nitromethane (7.00 ml) to give a colorless solution. TEA (583 mg, 803 μl, 5.76 mmol) was added. The reaction mixture was stirred at room temperature for 1 h. Complete by LCMS. The reaction mixture was concentrated in vacuo, kept on the vacuum pump for 30 min. and used as is immediately. The resulting yellow oil was taken up in 20 mL of THF and 20 mL of methanol and placed under a nitrogen atmosphere. To that was added 240 mg of 10% Pd/C (pre-wet with ethanol). Ammonium formate (1.82 g, 28.8 mmol) was added. The reaction mixture was stirred at room temperature for 2 days. Complete by LCMS. The reaction mixture was purged with argon, filtered through Celite and the filtercake washed several times with methanol. The combined filtrate and washes were concentrated in vacuo and loaded onto column in dichloromethane/methanol approx. 95:5. The crude material was purified by flash chromatography (silica gel, 40 g, 10% to 50% [(60:10:1 dichloromethane:MeOH:NH4OH) in dichloromethane gradient] to afford 2-amino-1-(2-isopropylpyrimidin-4-yl)ethanol (0.54 g) as a white solid. (M+H)+=182 m/e.

reactant | 2-isopropylpyrimidine-4-carbaldehyde | 5.76 mmol, 865 mg | C(C)(C)C1=NC=CC(=N1)C=O | C8H10N2O
reactant | Ammonium formate | 28.8 mmol, 1.82 g | C(=O)[O-].[NH4+]
solvent | nitromethane | 7.00 ml | [N+](=O)([O-])C | CH3NO2
product | 2-amino-1-(2-isopropylpyrimidin-4-yl)ethanol | 0.54 g | NCC(O)C1=NC(=NC=C1)C(C)C | C9H15N3O
